US03954764
In a similar manner to that described in Example 1, from 1-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine and N-(betachloroethyl)oxazolidinone, there is obtained 3-{2-[4-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone, which after recrystallization from ethyl acetate/petroleum ether, has a melting point of 184°-186°. The maleate salt melts after recrystallization from methanol/ether at 174°-175°.

reactant | 1-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine | ClC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCNCC3)C1 | C19H21ClN2S
reactant | N-(betachloroethyl)oxazolidinone | ClCCN1C(OCC1)=O | C5H8ClNO2
product | 3-{2-[4-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | ClC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H28ClN3O2S
